Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dysphagia
 
Major Surgical or Invasive Procedure:
___
Minimally invasive ___ esophagectomy

___
Right PICC line placement

 
History of Present Illness:
Mr. ___ is a ___ with long
segment ___ esophagus and T1a esophageal adenocarcinoma. 
He
is referred for surgical management.

He was initially diagnosed on evaluation at OS___ for GI bleed
requiring transfusion. Colonoscopy revealed diverticulosis and
hemorrhoids. EGD with EUS ___ with Dr. ___ 
7cm
segment of ___ esophagus with the Z line at 30 cm from the
incisors and the upper ends of the gastric folds started at 37 
cm
from the incisors. The segment appears grossly thickened and
irregular. Additionally noted a 8 mm nodule at 35 cm. Biopsy
demosntrated high grade dysplasia and possible intramucosal
adenocarcinoma. 

He was brought back on ___ for endoscopic mucosal
resection of nodule at 35 cm from incisors. Pathology showed a
T1a adenocarcinoma.  The tumor appeared to invade the muscularis
mucosa. Mucosa margins were positive. He was therefore referred
for surgical consultation.

He reports feeling well. Denies any odynophagis,
dysphagia, or pain. He has had long-standing reflux symptoms,
managed with over the counter Tums/Rolaid. He denies any chest
pain, shortness of breath, leg swelling or any history of 
cardiac
events. He is able to climb two flights of stairs without issue.

 
Past Medical History:
HTN
Celiac disease
GERD x ___ years, with ___ esophagus
Inguinal hernia repair
Appendectomy
 
Social History:
___
Family History:
no family history of GI cancer, sister with breast cancer

 
Physical Exam:
: 135/64. Heart Rate: 63. O2 Saturation%: 100. Weight: 219.6
(With Shoes). Temperature: 97.9. Resp. Rate: 16. Pain Score: 5
(back). Distress Score: 0.

GENERAL        
[X] WN/WD  [X] NAD  [X] AAO  [X] obese

HEENT          
[X] NC/AT   [] EOMI   [] PERRL/A   [X] Anicteric
[X] OP/NP mucosa normal     [] Tongue midline
[] Palate symmetric  [X] Neck supple/NT/without mass
[] Trachea midline [] Thyroid nl size/contour
[ ] Abnormal findings:

RESPIRATORY    
[X] CTA/P     [X] Excursion normal     [ ] No fremitus
[] No egophony   [] No spine/CVAT
[ ] Abnormal findings:

CARDIOVASCULAR 
[X] RRR    [X] No m/r/g    [] No JVD   [] PMI nl  [] No edema
[] Peripheral pulses nl    [] No abd/carotid bruit
[ ] Abnormal findings:

GI             
[X] Soft, obese, upper midline diastasis   [X] NT   [X] ND  [] 
No
mass/HSM   
[ ] Abnormal findings:

GU             [X] Deferred  
[ ] Nl genitalia    [ ] Nl pelvic/testicular exam    [ ] Nl DRE
[ ] Abnormal findings:

NEURO          
[X] Strength intact/symmetric    [] Sensation intact/ symmetric
[] Reflexes nl     [] No facial asymmetry [] Cognition intact
[] Cranial nerves intact   [ ] Abnormal findings:

MS     
        
[X] No clubbing   [] cyanosis   [] No edema   [] Gait nl
[] No tenderness  [] Tone/align/ROM nl   [] Palpation nl
[] Nails nl   [ ] Abnormal findings:

LYMPH NODES   
[X] Cervical nl      [x] Supraclavicular nl     [] Axillary nl
[] Inguinal nl   [ ] Abnormal findings:

SKIN           
[X] No rashes/lesions/ulcers
[] No induration/nodules/tightening     [ ] Abnormal findings:

PSYCHIATRIC    
[X] Nl judgment/insight    [] Nl memory   [] Nl mood/affect
[ ] Abnormal findings:

 
Pertinent Results:
                    WBC   RBC   Hgb  Hct  MCV  MCH  MCHC  RDW 
RDWSD Plt Ct 
___ 06:02    14.4* 3.71* 8.6* 31.2* 84  23.2* 27.6* 20.1* 
60.1* 381 
___ 04:20    14.0* 4.05* 8.7* 30.8* 76* 21.5* 28.2* 18.5* 
50.2* 391 
___ 06:16    13.0* 4.06* 8.8* 30.7* 76* 21.7* 28.7* 18.3* 
49.6* 385 
___ 05:01    10.3* 3.88* 8.3* 29.5* 76* 21.4* 28.1* 18.0* 
49.0* 350 
___ 05:50    10.2* 4.28* 9.1* 33.0* 77* 21.3* 27.6* 18.1* 
49.5* 324 
___ 05:38     9.8  4.08* 8.7* 31.5* 77* 21.3* 27.6* 17.7* 
49.2* 280 
___ 02:09    12.4* 3.65* 7.7* 28.2* 77* 21.1* 27.3* 18.0* 
50.4* 243 
___ 02:04    12.0* 4.09* 8.8* 31.8* 78* 21.5* 27.7* 18.0* 
50.5* 264 
___ 02:49    12.0* 4.33* 9.4* 32.6* 75* 21.7* 28.8* 17.6* 
47.5* 307 
___ 14:44    29.2* 4.84 10.3* 37.1* 77* 21.3* 27.5* 17.8* 
49.4 472* 

                  Glucose UreaN Creat Na   K   Cl HCO3 AnGap 
___ 07:47    ___  1402 4.73 ___ 
___ 04:20    ___  1402 4.53 ___ 
___ 06:16    ___  1392 4.33 ___ 
___ 05:01    ___  1432 4.53 ___ 
___ 05:50    ___  1382 ___  102 
___ 05:38    ___  1422 4.23 ___ 
___ 02:09     791   14   0.7  1352 4.53 100 27  8*2 
___ 02:04    ___  1402 4.73 ___ 
___ 02:49    144*1  24*  0.9  1382 5.03 ___ 
___ 14:44    181*1  30*  1.4* 1382 5.8*3 107 20* 114 
 
___ CXR :
Stable small right apical pneumothorax with unchanged position 
of the 
right-sided chest tube.  Low lung volumes with scattered patchy 
opacities, likely patchy atelectasis, unchanged. Stable position 
of supporting lines. 
  
___ CXR :
Combination of right basal atelectasis and possible small right 
pleural 
effusion unchanged since earlier today.  No detected 
pneumothorax, right ___ thoracostomy tube in place. 
Neo esophagus is slightly more dilated with air. 
Left lung clear.  Heart size normal. 
  
___ Chest CT :
1. Patient is status post ___ esophagectomy, with no 
evidence of contrast leakage on today's examination. 
2. Mediastinal lymph nodes are noted, likely reactive. 
3. New geographic hypoenhancing splenic lesion, likely an 
infarct. 

___ CT Neck :
1. Status post esophagectomy.  Gastroesophageal anastomosis and 
intrathoracic abnormalities are better assessed on the 
concurrent CT chest. 
2. No evidence for a fluid collection in the neck. 
3. Small amount of dependent radiodense contrast in the region 
of the proximal cervical esophagus, likely retained from the 
barium swallow performed 3 days prior on ___. 
4. Multiple nonenlarged bilateral subclavian lymph nodes.  No 
pathologically enlarged cervical lymph nodes by CT criteria. 

 
Brief Hospital Course:
Mr. ___ was admitted to the hospital and taken to the 
Operating Room where he underwent a minimally invasive ___ 
esophagectomy. He tolerated the procedure well and returned to 
the PACU in stable condition. He maintained stable hemodynamics 
and his pain was controlled with an epidural. His nasogastric 
tube remained in place for decompression of his conduit and his 
left neck JP was on bulb suction draining a small amount of 
serous fluid.  His right ___ drain had no air leak and drained 
a moderate amount of serosanguinous fluid.  He was hydrated with 
IV fluids and was using his incentive spirometer and a flutter 
valve. He had better pain control with a split epidural and 
transferred out of the ICU on post op day #2 to the Surgical 
floor.

He was very congested and had some difficulty coughing up his 
secretions despite denying increased pain. He was placed on 
nebulizers q 4 hrs along with Mucomyst and was eventually able 
to clear his secretions.  His nasogastric tube was removed on 
post op day #5 as it migrated out of position and he was soon 
feeling much better and taking deeper breaths.  His epidural was 
removed on ___ along with his Foley catheter and his pain 
continued to be controlled with dilaudid PCA and Tylenol. He was 
able to void without difficulty. 

A barium swallow was done on ___ and there was concern for 
a contained leak. He remained NPO and a PICC line was placed for 
TPN and IV antibiotics. His left neck JP drain remained in place 
along with his right pleural ___ drain.  He also developed 
some rapid atrial fibrillation to 170 and although it broke on 
its own he was treated with IV Metoprolol.  His WBC was 8K and 
he remained afebrile but he developed a progressive leukocytosis 
over the next few days of unclear etiology.
On ___ his WBC was 14K and a CT of the neck and chest was 
done which showed no evidence of a leak.  He began a liquid diet 
on ___ and tolerated it well. The drainage in his neck JP 
was serous as was his ___ drain.  His diet was gradually 
advanced to soft solids which he took in modest amounts and his 
IV antibiotics were stopped on ___ and replaced with 
Augmentin to total a seven day course. 

He continued to look well, remained afebrile and his drains were 
removed. His WBC continued to rise and his PICC line was removed 
on ___ as his WBC maxed at 18.5. He continued to tolerate 
soft foods, had room air saturations of 96% and he was walking 
frequently around the unit.  His WBC dropped to 13K on ___ 
and as he continued to look well he was discharged home. He is 
tolerating sot foods along with Ensure supplements TID and will 
follow up with DrGangadharan next week with a CBC and CXR prior 
to the visit. ___ services were also set up for him at 
discharge.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Lisinopril 20 mg PO DAILY 
2. Omeprazole 40 mg PO BID 
3. Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild/Fever 

 
Discharge Medications:
1.  Amoxicillin-Clavulanate Susp. 500 mg PO/NG Q8H 
RX *amoxicillin-pot clavulanate 250 mg-62.5 mg/5 mL 10 ml by 
mouth every eight (8) hours Disp ___ Milliliter Milliliter 
Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*2 
3.  HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN Pain - Moderate 
RX *hydromorphone 2 mg ___ tablet(s) by mouth every four (4) 
hours Disp #*40 Tablet Refills:*0 
4.  Metoprolol Succinate XL 12.5 mg PO DAILY 
RX *metoprolol succinate 25 mg 0.5 (One half) tablet(s) by mouth 
once a day Disp #*30 Tablet Refills:*0 
5.  Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*100 Tablet Refills:*0 
6.  Lisinopril 20 mg PO DAILY  
7.  Omeprazole 40 mg PO BID 
RX *omeprazole 40 mg 1 capsule(s) by mouth twice a day Disp #*60 
Capsule Refills:*3 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Esophageal cancer
Atrial fibrillation (resolved)
Esophageal anastomotic leak

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Call Dr. ___ ___ if you experience:
 -Fevers greater than 101 or chills
 -Increased shortness of breath, cough or chest pain
 -Nausea, vomiting 
 -Increased abdominal pain
 -Drainage or redness from your incisions

 Medication 
-See medication discharge sheet
-Take stool softners to prevent constipation

 Activity
 -Shower daily. Wash incision with mild soap & water, rinse, pat 
dry
 -No tub bathing, swimming or hot tub until incision healed
 -No driving while taking narcotics
 -No lifting greater than 10 pounds until seen in follow up
 -Walk ___ times a day for ___ minutes increase to a Goal of 
30 minutes daily as tolerated

 Diet:
 Soft solids as tolerated with Ensure supplements ___ times a 
day.
 Eat small frequent meals. Sit up in chair for all meals and 
remain sitting for ___ minutes after meals

 Daily weights: keep a log of weights and oral intake and bring 
it with you to your appointment so that your caloric intake can 
be assessed.

 NO CARBONATED DRINKS

  

 
 
Followup Instructions:
___